US07897607B2
(E)-2-(2,6-dichlorobenzoyl)-3-(1-propylbutylamino)acrylonitrile
A mixture of 3-(2,6-dichlorophenyl)-3-oxopropanenitrile (0.200 g, 0.93 mmol), acetic anhydride (0.22 g, 2.20 mmol), and triethyl orthoformate (0.21 g, 1.40 mmol) was stirred at 150° C. for 1 hr. The solution was then concentrated and the residue redissolved in ethanol (5 mL). 4-heptylamine (0.16 g, 1.4 mmol) in 1 mL of tetrahydrofuran was added to the reaction mixture at 0° C. The reaction stirred for 30 minutes and was then concentrated. Flash chromatography (20% Ethyl acetate/hexanes) gave the desired compound (0.033 g, 10%).

reactant | 3-(2,6-dichlorophenyl)-3-oxopropanenitrile | 0.93 mmol, 0.200 g | ClC1=C(C(=CC=C1)Cl)C(CC#N)=O | C9H5Cl2NO
reactant | acetic anhydride | 2.20 mmol, 0.22 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoformate | 1.40 mmol, 0.21 g | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-heptylamine | 1.4 mmol, 0.16 g | CCCC(CCC)N | C7H17N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (E)-2-(2,6-dichlorobenzoyl)-3-(1-propylbutylamino)acrylonitrile | 0.033 g, 10% | ClC1=C(C(=O)\C(\C#N)=C\NC(CCC)CCC)C(=CC=C1)Cl | C17H20Cl2N2O
